US08614220B2
Step 1. 1-(4-Methoxy-3-nitro-phenyl)-4-methyl-piperazine
Pd(OAc)2 (85 mg, 0.38 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl (225 mg, 0.57 mmol), K3PO4 (2.26 g, 10.68 mmol), 4-bromo-1-methoxy-2-nitro-benzene (1.77 g, 7.63 mmol) in THF (50 mL) were charged in a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. N-methylpiperazine (1.01 mL, 9.15 mmol) was added and the reaction mixture was refluxed for 72 h. The reaction mixture was then allowed to cool to room temperature and concentrated. The crude solid was purified by flash chromatography on silica gel (eluant: DCM/EtOH 90/10) to afford 1.05 g (55% yield) of the title compound.

reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)-biphenyl | 0.57 mmol, 225 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | K3PO4 | 10.68 mmol, 2.26 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromo-1-methoxy-2-nitro-benzene | 7.63 mmol, 1.77 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | N-methylpiperazine | 9.15 mmol, 1.01 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.38 mmol, 85 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-(4-Methoxy-3-nitro-phenyl)-4-methyl-piperazine | 1.05 g, 55% yield | COC1=C(C=C(C=C1)N1CCN(CC1)C)[N+](=O)[O-] | C12H17N3O3
